US09034866B2
Synthesis of 3-((2-chlorophenoxy)methyl)-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Prepared similarly to as described in the synthesis of 3-(cyanomethyl)-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide starting from 10-bromo-3-(chloromethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate replacing sodium cyanide with 2-chlorophenol to give the titled compound as an off-white solid (7 mg, 6%).

reactant | 3-(cyanomethyl)-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | C(#N)CC1=C(N=C2N1CCOC1=C2C=C(C=C1)C#CC(C)(C)O)C(=O)N | C19H18N4O3
reactant | 10-bromo-3-(chloromethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)[O-])CCl)C1
reactant | 2-chlorophenol | ClC1=C(C=CC=C1)O | C6H5ClO
product | 3-((2-chlorophenoxy)methyl)-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 7 mg, 6% | ClC1=C(OCC2=C(N=C3N2CCOC2=C3C=C(C=C2)C#CC(C)(C)O)C(=O)N)C=CC=C1 | C24H22ClN3O4
